US06441012B1
d) Preparation of Methyl 3-Benzyloxy-5-methoxy4-nitrophenoxyacetate
A mixture of 3-benzyloxy-5-methoxy-4-nitrophenol(3.85 g), N,N-dimethyl formamide (20 mL), potassium carbonate(2.8 g) and methyl bromoacetate(2.42 g) was stirred at ambient temperature for 3 h. The mixture was treated with water and ethyl acetate and the organic phase was separated, washed with brine, dried and evaporated to dryness. The residue was purified by flash chromatography eluting with increasingly polar mixtures of ethyl acetate and hexane to give the product (4.6 g), (m/e348, MH+).

reactant | 3-benzyloxy-5-methoxy-4-nitrophenol | 3.85 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1[N+](=O)[O-])OC)O | C14H13NO5
reactant | N,N-dimethyl formamide | 20 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 2.42 g | BrCC(=O)OC | C3H5BrO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Methyl 3-Benzyloxy-5-methoxy4-nitrophenoxyacetate | 4.6 g | C(C1=CC=CC=C1)OC=1C=C(OCC(=O)OC)C=C(C1[N+](=O)[O-])OC | C17H17NO7
